US07232812B2
(2S,3R)-2,2,2-trifluoro-N-(2-methyl-azetidin-3-yl)-acetamide (1,04 g, 4,74 mmoles) hydrochloride was dissolved in dichloromethane (30 ml) and triethylamine (2,7 ml) was added, the mixture stirred for 10 minutes at room temperature, cooled to 0° C. and a solution of 3,5-di-tert-butyl-4-hydroxy-benzoyl chloride (1,16 g, 4,3 mmoles) in dichloromethane (20 ml) was added. The reaction mixture was stirred at room temperature overnight, then poured on ice, the phases were separated, the aqeous phase extracted with dichloromethane and the combined organic phases were dried over magnesium sulfate, filtered and evaporated to dryness to give 1,42 g (80% of theoretical yield) of N-[1-(3,5-di-tert-butyl-4-hydroxy-benzoyl)-(2S,3R)-2-methyl-azetidin-3-yl]-2,2,2-trifluoro-acetamide.

reactant | (2S,3R)-2,2,2-trifluoro-N-(2-methyl-azetidin-3-yl)-acetamide | 4,74 mmoles, 1,04 g | FC(C(=O)N[C@H]1[C@@H](NC1)C)(F)F | C6H9F3N2O
reactant | triethylamine | 2,7 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-di-tert-butyl-4-hydroxy-benzoyl chloride | 4,3 mmoles, 1,16 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[1-(3,5-di-tert-butyl-4-hydroxy-benzoyl)-(2S,3R)-2-methyl-azetidin-3-yl]-2,2,2-trifluoro-acetamide | 1,42 g, 80% | C(C)(C)(C)C=1C=C(C(=O)N2[C@H]([C@@H](C2)NC(C(F)(F)F)=O)C)C=C(C1O)C(C)(C)C | C21H29F3N2O3
